US07790756B2
A solution of 3,5-dinitro-benzonitrile (5 g, 25.9 mol), 5-chloro-pyridin-3-ol (3.35 g, 25.9 mol) and K2CO3 (7.2 g, 52 mol) in DMF (150 mL) was heated at 100° C. overnight. The mixture was concentrated in vacuo and the residue was poured into water. The aqueous layer was extracted with ethyl acetate (3×150 mL) and the combined organics were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography to afford 3-(5-chloro-pyridin-3-yloxy)-5-nitro-benzonitrile (3.1 g, 44% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.56 (s, 1H), 8.51 (s, 1H), 8.47 (s, 1H), 8.22 (s, 1H), 8.19 (s, 1H), 7.87 (s, 1H).

reactant | 3,5-dinitro-benzonitrile | 25.9 mol, 5 g | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C7H3N3O4
reactant | 5-chloro-pyridin-3-ol | 25.9 mol, 3.35 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | K2CO3 | 52 mol, 7.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 3-(5-chloro-pyridin-3-yloxy)-5-nitro-benzonitrile | 3.1 g, 44% yield | ClC=1C=C(C=NC1)OC=1C=C(C#N)C=C(C1)[N+](=O)[O-] | C12H6ClN3O3
